US07485637B2
4e: 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine
A mixture of 0.52 mmol 4-(4-trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 2 ml dichloromethane was treated with 0.2 ml trifluoroacetic acid. The mixture was stirred at 40° C. for 3 hrs then concentrated and treated with water/NaOH and extracted with dichloromethane. The combined organic phases were washed with saturated NaCl, dried with MgSO4 and evaporated to yield the title compound. MS (m/e): 228.3 (MH+, 100%)

reactant | 4-(4-trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.52 mmol | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H20F3NO2
reactant | trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
